US04067723
(±) 1-(2-Furyl)-1-phenylethanol (43 g.) was dissolved in a solution of hydrazine hydrate (25 ml.) in ethanol (100 ml.). Formic acid (23 ml.) was added to the solution cautiously in portions and the heterogeneous mixture was heated at reflux on a steam bath for 4 hours. After 1 hour the mixture became homogeneous. The solution was evaporated to low volume and the residue was digested with a mixture of diethyl ether (100 ml.) and water (200 ml.). Dilute sodium hydroxide solution was added to adjust the pH to 9 and the ether layer was separated. The aqueous layer was extracted with diethyl ether (2 × 150 ml.) and the combined ethereal extracts were washed with water (3 × 150 ml.) and filtered. The filtrate was extracted with 2N hydrochloric acid (5 × 100 ml.). The combined acidic extracts were washed with diethyl ether (2 × 200 ml.) and basified by the addition of 50% aqueous sodium hydroxide solution. The oil which was deposited was extracted with diethyl ether (2 × 200 ml.) and the combined extracts were washed with water (2 × 200 ml.), dried over sodium sulphate, filtered and evaporated to give a brown oil, which was distilled to give 3-(1-phenylethyl)pyridazine (5.4 g.), m.p. 43°-48° C. (b.p. 120° C./0.05 mm.Hg), as an off-white solid.

reactant | (±) 1-(2-Furyl)-1-phenylethanol | 43 g | O1C(=CC=C1)C(C)(O)C1=CC=CC=C1 | C12H12O2
reactant | Formic acid | 23 ml | C(=O)O | CH2O2
reactant | hydrazine hydrate | 25 ml | O.NN
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 3-(1-phenylethyl)pyridazine | 5.4 g | C1(=CC=CC=C1)C(C)C=1N=NC=CC1 | C12H12N2
